US08445509B2
Production of 6-ethyl-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carbonitrile
To a solution of 2-cyano-N-(4-fluorophenyl)acetamide (1.7 g, 10.6 mmol) in dimethyleneglycol monomethylether (20 mL) were added 1,4-diazabicyclo[2.2.2]octane (1.2 g, 10.6 mmol) and (1E)-1-methoxypent-1-en-3-one (1.82 g, 15.9 mmol), and the mixture was stirred at 120° C. for 12 hr. The reaction mixture was diluted with 1N hydrochloric acid and ethyl acetate, and extracted 3 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/hexane=50/50→100/0) to give a white solid. The white solid was washed with ethyl acetate to give the title compound (410 mg, 16%) as a white solid.

reactant | 2-cyano-N-(4-fluorophenyl)acetamide | 10.6 mmol, 1.7 g | C(#N)CC(=O)NC1=CC=C(C=C1)F | C9H7FN2O
reactant | 1,4-diazabicyclo[2.2.2]octane | 10.6 mmol, 1.2 g | N12CCN(CC1)CC2 | C6H12N2
reactant | (1E)-1-methoxypent-1-en-3-one | 15.9 mmol, 1.82 g | CO\C=C\C(CC)=O | C6H10O2
solvent | dimethyleneglycol monomethylether | 20 mL | COCCO | C3H8O2
solvent | hydrochloric acid | 1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-ethyl-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carbonitrile | 410 mg, 16% | C(C)C1=CC=C(C(N1C1=CC=C(C=C1)F)=O)C#N | C14H11FN2O
